US07612114B2
6-{2-{{4-[2-(4-Ethylpiperazin-1-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (21 mg) and 2-chloro-1-(4-ethylpiperazin-1-yl)ethanone (16 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (12 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 21 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 2-chloro-1-(4-ethylpiperazin-1-yl)ethanone | 16 mg | ClCC(=O)N1CCN(CC1)CC | C8H15ClN2O
product | 6-{2-{{4-[2-(4-Ethylpiperazin-1-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 12 mg | C(C)N1CCN(CC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1 | C35H47N3O3
